2101-08-31 06:01:00 Physician Resident Progress Note
Chief Complaint: 66 yom with hx of hepatic sarcoidosis, ascited,
   cirrhosis, grade I varices, pulmonary sarcoidosis, s/p recent
   hospitalization for melena requiring PRBC transfusion, presented for
   TIPS evaluation, then noted to develop SBP, admitted to MICU for
   continued desaturations with NSTEMI
   24 Hour Events:
   UGI Scope: oozing gastropathy, recommendations included reversing INR
   with FFP and adding carefate 1g QID
   TTE: mild regional LV systolic dysfunction with infero-lateral
   akinesis. Moderate - severe MR.  Moderate TR.  Mild pulmonary a.
   systolic HTN.  Compared with prior study on [**5-27**], LVEF lower and degree
   of valvular regurgitation increased and LV cavity now dilated.
   HCT continues to trend down: 26.9 - 24.6 - 21.9 in the setting of
   multiple units of PRBC's and INR continues to trend up: 2.3 - 2.1 - 2.7
   - given 4 units PRBC's and 5 units FFP
   TN-I trending up: 0.18 - 0.22 - 0.3 with flat CK's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2101-8-30**] 06:09 AM
   Ciprofloxacin - [**2101-8-30**] 08:20 PM
   Metronidazole - [**2101-8-31**] 03:47 AM
   Meropenem - [**2101-8-31**] 03:47 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-8-31**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 76 (71 - 91) bpm
   BP: 107/58(79) {91/48(62) - 107/62(79)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 21 (13 - 271)mmHg
   Bladder pressure: 18 (13 - 18) mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  6,264 mL
                                                                    852 mL
   PO:
   TF:
   IVF:
                                                                  4,285 mL
                                                                    473 mL
   Blood products:
                                                                  1,899 mL
                                                                    349 mL
   Total out:
                                                                    500 mL
                                                                    910 mL
   Urine:
                                                                    300 mL
                                                                     10 mL
   NG:
                                                                    200 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  5,764 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/31/68/17/-5
   Ve: 13.2 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General: NAD, alert, responds to commands
   Heart: RRR no MRG
   Lungs: diffuse coarse BS over right lung field with < air flow
   Abdomen: NT, distended, ABS
   Extremities: NT, no CCE, DP 2+
   Labs / Radiology
   104 K/uL
   7.4 g/dL
   86 mg/dL
   2.1 mg/dL
   17 mEq/L
   3.8 mEq/L
   85 mg/dL
   109 mEq/L
   139 mEq/L
   21.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2101-8-30**]  05:39 AM
                             [**2101-8-30**]  06:26 AM
                             [**2101-8-30**]  11:11 AM
                             [**2101-8-30**]  12:25 PM
                             [**2101-8-30**]  06:40 PM
                             [**2101-8-30**]  07:00 PM
                             [**2101-8-30**]  10:05 PM
                             [**2101-8-31**]  01:21 AM
                             [**2101-8-31**]  04:11 AM
                             [**2101-8-31**]  04:51 AM
   WBC
   9.6
   12.0
   Hct
   26.3
   26.9
   24.6
   21.9
   Plt
   192
   104
   Cr
   2.0
   2.1
   2.1
   TropT
   0.18
   0.22
   0.30
   TCO2
   18
   18
   18
   19
   Glucose
   177
   79
   86
   Other labs: PT / PTT / INR:27.3/50.7/2.7, CK / CKMB /
   Troponin-T:28//0.30, ALT / AST:14/27, Alk Phos / T Bili:66/6.2,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:169 mg/dL, Lactic Acid:3.4 mmol/L,
   LDH:119 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Microbiology
   - sputum [**8-30**]
 G + rods
   - peritoneal fluid [**8-29**]
 NGTD, no organisms on gram stain
   Imaging
   - no new imaging
   Assessment and Plan
   ##. GI bleed: patient with episode of hemoptysis on the floor and hx of
   GI bleed via gastropathy from portal HTN and notable dark red blood and
   clots aspirated by OG tube, now s/p EGD which showed oozing gastropathy
   and now falling HCT and rising INR in setting of multiple transfusions
   overnight.
   - continue PRBC / FFP transfusions for falling HCT and rising INR
   - transfuse cryoprecipitate if fibrinogen < 125
   - continue pressor support to sustain urine output
   - re-consult hepatology for consideration of TIPS
   ##. Shock: likely due mostly to hemorrhagic shock. Possible component
   of sepsis from underlying SBP now with aspiration pneumonia vs.
   chemical pneumonitis given acuity of onset, now requiring 2 pressors
   (phenylephrine and vasopressin)
   -  continue vancomycin, meropenum, flagyl, cipro for broad spectrum
   coverage of pneumonia and SBP flora
   -  continue PRBC / FFP / Cryo transfusions as mentioned above
   -  d/w hepatology TIPS as definitive treatment and establish endpoint
   -  follow daily CXR and ABG
   -  IV PPI drip, will defer octerotide ggt as on vasopressin
   ##. Respiratory failure: likely result of aspiration pneumonia vs.
   chemical pneumonitis given rapid progression and presentation, along
   with collapse of lung.
   - d/w family potential bronch today for possible right lung collapse
   - continue broad spectrum antibiotics as documented above
   - continue ARDs ventilation settings
   - follow with serial ABG
   - continue sedation with Fentayl only, Midazolam discontinued for
   hepatic dysfunction
   ##. ST depressions: continued rising TN
s in the setting of ST
   depressions c/w NSTEMI with h/o of pos. stress test several months
   prior
 however, patient is not a candidate for interventions given
   substantial bleeding risk.  Echo demonstrated LV infero-lateral
   akinesis c/w infarction with increased level of heart dysfunction
   compared to prior.  This most likely is the result of demand ischemia
   in the setting of shock and hemorrhage.
   - continue to trend cardiac enzymes
   - continue PRBC and FFP transfusion with pressor support for improved
   myocardial perfusion
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension from his shock.  Baseline noted to be 1.5 in past with near
   2.0 on this admission.
   - continue to trend Cr
 stable
   - continue pressor support to improve renal perfusion
   - FeNa 1.73, but low Na prerenal vs. HRS
   ##. SBP: diagnosed by prior paracentesis
   - continue broad spectrum antibiotic coverage
   - continue IAP
s to ensure no abdominal compartment syndrome
   ##. FEN: No IVF, replete electrolytes
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals
   ##. Code: Full
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints
   .
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-8-30**] 02:18 AM
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI drip
   VAP: hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2101-09-01 06:29:00 Physician Resident Progress Note
Chief Complaint: 66 yom with hx of sarcoid cirrhosis, grade I varices,
   [**Hospital 4322**] transferred to ICU with severe aspiration pneumonia / chemical
   pneumonitis and now ongoing GI bleed from portal gastropathy.
   24 Hour Events:
   - 24 hour transfusion history
     - 4 units PRBC's
     - 4 units FFP
   - possibilty of TIPS for portal gastropathy d/w liver who felt
   procedure too risky and patient is not a candidate
   - failed PSV trial, back on ARDSnet protocol with sats in low 90's
   while on 100 % FIO2
   - continued melanotic stools, decreased in frequency with decreased
   blood OG aspirate
   - compartment pressures trended ranging from 15-18
   - attempting to wean off phenylephrine this AM
   - code status remains full code s/p d/w family
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2101-8-30**] 06:09 AM
   Metronidazole - [**2101-8-31**] 08:18 PM
   Meropenem - [**2101-8-31**] 08:18 PM
   Ciprofloxacin - [**2101-8-31**] 08:50 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-1**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 72 (69 - 81) bpm
   BP: 106/62(81) {103/59(77) - 119/69(90)} mmHg
   RR: 26 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 16 (14 - 291)mmHg
   Bladder pressure: 18 (15 - 18) mmHg
   Total In:
                                                                  4,477 mL
                                                                    864 mL
   PO:
   TF:
   IVF:
                                                                  2,288 mL
                                                                    287 mL
   Blood products:
                                                                  2,078 mL
                                                                    577 mL
   Total out:
                                                                  1,395 mL
                                                                    220 mL
   Urine:
                                                                    495 mL
                                                                    220 mL
   NG:
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  3,082 mL
                                                                    644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 569 (569 - 569) mL
   PS : 0 cmH2O
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.33/33/95.[**Numeric Identifier 143**]/15/-7
   Ve: 10.9 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General: NAD, alert and responsive
   Lungs: coarse bilateral BS, inc. airflow right side
   Heart: RRR, no MRG
   Abdomen: soft, NT/D, ABS
   Extremities: NT, no CCE, DP 2+
   Labs / Radiology
   119 K/uL
   9.2 g/dL
   88 mg/dL
   2.1 mg/dL
   15 mEq/L
   4.2 mEq/L
   86 mg/dL
   108 mEq/L
   138 mEq/L
   28.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2101-8-30**]  10:05 PM
                             [**2101-8-31**]  01:21 AM
                             [**2101-8-31**]  04:11 AM
                             [**2101-8-31**]  04:51 AM
                             [**2101-8-31**]  10:57 AM
                             [**2101-8-31**]  12:57 PM
                             [**2101-8-31**]  01:09 PM
                             [**2101-8-31**]  03:08 PM
                             [**2101-8-31**]  08:37 PM
                             [**2101-8-31**]  09:22 PM
   WBC
   12.0
   13.5
   Hct
   24.6
   21.9
   27.0
   27.0
   28.2
   Plt
   104
   119
   Cr
   2.1
   2.1
   TropT
   0.30
   0.28
   0.28
   TCO2
   19
   19
   19
   18
   Glucose
   86
   88
   Other labs: PT / PTT / INR:26.9/45.4/2.6, CK / CKMB /
   Troponin-T:39/5/0.28, ALT / AST:14/27, Alk Phos / T Bili:66/6.2,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:217 mg/dL, Lactic Acid:3.4 mmol/L,
   LDH:119 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging:
   - chest x-ray [**8-31**]
 right lung better aerated with more prominent air
   bronchograms
   Micro:
   - sputum [**8-31**]
 no microorganisms, < 10 PMN
s, < 10 epi
   - MRSA [**8-30**]
 positive
   - urine [**8-30**]
 negative
   - blood 9/22
 pending
   Assessment and Plan
   ##. GI bleed: patient w/ episode of hemoptysis on the floor and hx of
   GI bleed via portal gastropathy and notable dark red blood and clots
   aspirated by OG tube, now s/p EGD which showed oozing gastropathy.
   Patient now with stable HCT in setting of multiple transfusions.
   - continue PRBC / FFP transfusions for falling HCT and rising INR with
   goal HCT > 30 and INR < 2
   - fibrinogen levels have remained stable in low 200
 transfuse
   cryoprecipitate if fibrinogen < 125
   - urine output continues to remain [**10-7**] / hr continue pressor support
   to sustain urine output > 30 / hr
   - continue supportive care as TIPS is not an option per hepatology
   ##. Shock: hemorrhagic and septic components from ongoing GI bleed and
   aspiration pneumonia / chemical pneumonitis requiring 2 pressors
   -  continue vancomycin, meropenum, flagyl, cipro for broad spectrum
   coverage of pneumonia and SBP flora
   -  continue PRBC / FFP / Cryo transfusions as mentioned above
   -  follow daily CXR and ABG
   -  IV PPI drip, will defer octerotide ggt as on vasopressin
   ##. Respiratory failure: result of aspiration pneumonia vs. chemical
   pneumonitis given rapid progression and presentation, along with
   collapse of lung.  Patient failed trial of PSV yesterday.
   - continue broad spectrum antibiotics as documented above
   - continue ARDs ventilation settings
   - follow with serial ABG
   ##. ST depressions: continued elevated TN
s in setting of ST depression
   and demonstrated wall motion abnormality on echo in the infero-lateral
   area c/w myocardial infarction which most likely resulted from demand
   ischemia in setting of shock and hemorrhage.  Patient is too sick for
   additional cardiac interventions.
   - continue to trend cardiac enzymes
 now stable
   - continue PRBC and FFP transfusion with pressor support for improved
   myocardial perfusion
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension from his shock.  Baseline noted to be 1.5 in past with near
   2.0 on this admission.
   - continue to trend Cr
 stable
   - urine output remains near 30 cc/hr - continue pressor support to
   improve renal perfusion
   ##. SBP: diagnosed by prior paracentesis
   - continue broad spectrum antibiotic coverage
   - continue IAP
s to ensure no abdominal compartment syndrome
   ##. FEN: No IVF, replete electrolytes
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals
   ##. Code: Full
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints
   ##. Disposition: ICU
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   18 Gauge - [**2101-8-30**] 02:18 AM
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI drip
   VAP: hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-8-30**] 02:18 AM
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-02 07:27:00 Physician Resident Progress Note
Chief Complaint: This is a  66 y.o. Male with h.o. Sarcoid cirrhosis,
   Grade I varicies, chronic GI, [**Hospital 4322**] transferred to ICU for respiratory
   failure, shock s/p aspiration event with continued GI bleed.
   24 Hour Events:
   - hematocrit stable throughout day without any further transfusions -
   most recent Hct 32.5 and INR 2.5
   - liver recs: start midodrine and octreotide if continued off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-1**] 10:19 PM
   Meropenem - [**2101-9-2**] 04:40 AM
   Metronidazole - [**2101-9-2**] 04:42 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 45 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2101-9-1**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.7
   HR: 68 (63 - 76) bpm
   BP: 96/52(69) {91/47(66) - 120/73(91)} mmHg
   RR: 16 (12 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74 kg
   Height: 70 Inch
    CVP: 14 (10 - 18)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  2,601 mL
                                                                    636 mL
   PO:
   TF:
                                                                     68 mL
                                                                    109 mL
   IVF:
                                                                  1,956 mL
                                                                    497 mL
   Blood products:
                                                                    577 mL
   Total out:
                                                                    722 mL
                                                                    232 mL
   Urine:
                                                                    722 mL
                                                                    232 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,879 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 629 (423 - 629) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 90%
   ABG: 7.32/36/101/18/-6
   Ve: 10.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: NAD
   Heart: RRR, no MRG
   Lungs: coarse BS R + L,  improved airflow on right
   Abdomen: soft, distended, NT, ABS
   Extremities: NT, WWP, DP 2+
   Labs / Radiology
   101 K/uL
   11.0 g/dL
   87 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.4 mEq/L
   97 mg/dL
   103 mEq/L
   133 mEq/L
   32.5 %
   20.1 K/uL
        [image002.jpg]
                             [**2101-8-31**]  09:22 PM
                             [**2101-9-1**]  05:35 AM
                             [**2101-9-1**]  06:03 AM
                             [**2101-9-1**]  09:21 AM
                             [**2101-9-1**]  09:35 AM
                             [**2101-9-1**]  02:43 PM
                             [**2101-9-1**]  02:53 PM
                             [**2101-9-1**]  08:28 PM
                             [**2101-9-2**]  03:09 AM
                             [**2101-9-2**]  03:20 AM
   WBC
   16.1
   20.1
   Hct
   28.2
   29.8
   29.4
   30.5
   31.4
   32.5
   Plt
   109
   101
   Cr
   2.2
   2.2
   TropT
   0.33
   TCO2
   20
   20
   20
   19
   Glucose
   101
   87
   Other labs: PT / PTT / INR:25.8/46.5/2.5, CK / CKMB /
   Troponin-T:22/5/0.33, ALT / AST:14/29, Alk Phos / T Bili:90/7.9,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:284 mg/dL, Lactic Acid:2.4 mmol/L,
   LDH:159 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Microbiology:
   - sputum [**8-30**]
 1+ GPR, coag + SA sparse growth, yeast sparse growth
   - sputum [**8-31**]
 pending
   - blood 9/22
 pending
   - urine [**8-30**]
 pending
   Imaging:
   - CXR [**9-1**]
 severe right pneumonia, increased right sided pleural
   effusion, new left sided pulmonary edema
   Assessment and Plan
   Assessment and Plan
   ##. Shock: hemorrhagic and septic components from GI bleed and
   aspiration pneumonia requiring single pressor
   - continue vancomycin, meropenum, flagyl, cipro for broad spectrum
   coverage of pneumonia and SBP flora
   - monitor serial HCT now stable
 will use PRBC / FFP / Cryo
   transfusions as mentioned above if < 25
   - follow daily CXR and ABG
   - IV PPI drip, will convert to [**Hospital1 7**] PPI tomorrow if HCT remains stable
   - consider beginning midodrine and weaning vasopressin
   ##. Respiratory failure: result of aspiration pneumonia vs. chemical
   pneumonitis given rapid progression and presentation, along with
   collapse of lung.  Patient failed trial of PSV.  CXR now demonstrating
   worsening pulmonary edema on left side suggesting fluid overload.
   - continue broad spectrum antibiotics as documented above
   - continue trial of PSV with goal of [**7-16**]
   - follow with serial ABG
   - limit IVF
s for worsening fluid congestion in setting of known AMI
   ##. ST depressions: patient with known MI likely do to demand ischemia
   with elevated TN and wall motion abnormality demonstrated by ECHO
   - continue supportive measures to improve myocardial perfusion
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension  and poor forward flow.  Baseline noted to be 1.5 in past
   with near 2.0 on this admission.  Renal function appears intact with
   stable Cr.
   - continue to trend Cr with UOP around 30 cc/hr
   ##. SBP: diagnosed by prior paracentesis
   - continue broad spectrum antibiotic coverage
   - IAP stable now 19
 will continue to trend, increasing frequency of
   measurements if UOP decreases
   ##. FEN: No IVF, replete electrolytes
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals, consider placing PICC line early next week and
   reducing overall numbers of lines
   ##. Code: Full, considering DNR
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints
   ##. Disposition: ICU
   ICU Care
   Nutrition:
    Glycemic Control:
   Lines:
   18 Gauge - [**2101-8-30**] 02:18 AM
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI drip
   VAP: hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2101-9-1**] 05:11 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-09-03 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started midodrine 5mg TID
   -trial of PSV
   -consider placing PICC line early next week and reducing overall number
   of lines
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-2**] 10:35 PM
   Metronidazole - [**2101-9-3**] 03:33 AM
   Meropenem - [**2101-9-3**] 04:31 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 81 (70 - 92) bpm
   BP: 120/61(82) {91/47(65) - 122/68(88)} mmHg
   RR: 16 (13 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 74 kg
   Height: 70 Inch
    CVP: 15 (9 - 345)mmHg
   Total In:
                                                                  2,649 mL
                                                                    827 mL
   PO:
   TF:
                                                                    634 mL
                                                                    301 mL
   IVF:
                                                                  1,925 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    285 mL
   Urine:
                                                                    720 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,929 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (475 - 610) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 122
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.33/35/91.[**Numeric Identifier 143**]/18/-6
   Ve: 9.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   83 K/uL
   9.7 g/dL
   115 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   102 mg/dL
   110 mEq/L
   139 mEq/L
   28.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2101-9-1**]  02:43 PM
                             [**2101-9-1**]  02:53 PM
                             [**2101-9-1**]  08:28 PM
                             [**2101-9-2**]  03:09 AM
                             [**2101-9-2**]  03:20 AM
                             [**2101-9-2**]  04:01 PM
                             [**2101-9-2**]  09:37 PM
                             [**2101-9-3**]  12:57 AM
                             [**2101-9-3**]  02:41 AM
                             [**2101-9-3**]  02:56 AM
   WBC
   20.1
   14.9
   14.2
   Hct
   30.5
   31.4
   32.5
   30.2
   31.7
   28.6
   Plt
   101
   82
   83
   Cr
   2.2
   2.2
   TCO2
   20
   19
   18
   19
   Glucose
   87
   115
   Other labs: PT / PTT / INR:28.0/56.3/2.7, CK / CKMB /
   Troponin-T:22/5/0.33, ALT / AST:14/29, Alk Phos / T Bili:90/6.1,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:284 mg/dL, Lactic Acid:2.4 mmol/L,
   LDH:159 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr ([**2101-9-2**])
   There has been no appreciable interval change, aside from slight
   decrease in
   the moderate right pleural effusion. Right lung remains generally
   consolidated due to pneumonia. Interstitial pulmonary edema may have
   improved
   slightly in the left lung but consolidation persists at the base either
   airspace edema or a second focus of pneumonia. ET tube in standard
   placement. Right jugular line ends just below the superior cavoatrial
   junction and nasogastric tube passes below the diaphragm and out of
   view. No pneumothorax.
   Microbiology: [**8-30**]
      RESPIRATORY CULTURE (Preliminary):
         RARE GROWTH Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
         YEAST.    SPARSE GROWTH
   [**2101-8-31**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   INPATIENT
   [**2101-8-30**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {STAPH AUREUS COAG +, YEAST} INPATIENT
   [**2101-8-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2101-8-30**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2101-8-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2101-8-30**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2101-8-29**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid Culture in
   Bottles-PRELIMINARY INPATIENT
   [**2101-8-29**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2101-8-27**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2101-8-27**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2101-8-27**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2101-8-26**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2101-8-26**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2101-8-26**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2101-8-26**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid Culture in
   Bottles-PRELIMINARY INPATIENT
   [**2101-8-26**]  PERITONEAL FLUID NOT PROCESSED   INPATIENT
   [**2101-8-20**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid Culture in
   Bottles-FINAL INPATIENT
   [**2101-8-20**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 ASCITES
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   ##. Shock: hemorrhagic and septic components from GI bleed and
   aspiration pneumonia requiring single pressor
   - continue vancomycin, meropenem, flagyl, cipro for broad spectrum
   coverage of pneumonia and SBP flora
   - monitor serial HCT now stable
 will use PRBC / FFP / Cryo
   transfusions as mentioned above if < 25
   - follow daily CXR and ABG
   - IV PPI drip
   - now on midodrine/octreotide and off pressors [**Last Name (un) 10316**]
   ##. Respiratory failure: result of aspiration pneumonia vs. chemical
   pneumonitis given rapid progression and presentation, along with
   collapse of lung.  Patient failed trial of PSV.  CXR now demonstrating
   worsening pulmonary edema on left side suggesting fluid overload,
   ?lobar collapse.
   - continue broad spectrum antibiotics as documented above
   (vanc/[**Last Name (un) 614**]/cipro)
   - ?lobar collapse on CXR. Will likely do bronch today
   -intraabdominal pressure of 23, will consider paracentesis today
   - follow with serial ABG
   - limit IVF
s for worsening fluid congestion in setting of known AMI
   (other than blood products)
   ##. ST depressions: patient with known MI likely do to demand ischemia
   with elevated TN and wall motion abnormality demonstrated by ECHO
   - continue supportive measures to improve myocardial perfusion
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension  and poor forward flow.  Baseline noted to be 1.5 in past
   with near 2.0 on this admission.  Renal function appears intact with
   stable Cr.
    -will verify with liver OK for paracentesis today
   - continue to trend Cr with UOP around 30 cc/hr
    -continue octreotide/midodrine. Continue daily albumin
   ##. SBP: diagnosed by prior paracentesis
   - continue broad spectrum antibiotic coverage as above
   ##. FEN: No IVF, replete electrolytes
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals, consider placing PICC line early next week and
   reducing overall numbers of lines
   ##. Code: Full, considering DNR
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-8-30**] 03:55 AM
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2101-09-03 11:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, GIB, shock (resolved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors.
   GI bleed resumed.
   Octreotide / midodrine resumed.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-2**] 10:35 PM
   Metronidazole - [**2101-9-3**] 03:33 AM
   Meropenem - [**2101-9-3**] 04:31 AM
   Vancomycin - [**2101-9-3**] 08:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   fentanyl gtt, chg, flagyl, meropenem, PPI gtt, sucralfate, vanco IV,
   cipro, lactulose, midodrine, albumin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-3**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 85 (71 - 92) bpm
   BP: 105/52(68) {92/48(65) - 122/68(88)} mmHg
   RR: 19 (14 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 74 kg
   Height: 70 Inch
   CVP: 13 (9 - 345)mmHg
   Bladder pressure: 23 (23 - 23) mmHg
                                Total In:
                                                                  2,649 mL
                                                                  1,541 mL
   PO:
                                TF:
                                                                    634 mL
                                                                    301 mL
   IVF:
                                                                  1,925 mL
                                                                    689 mL
   Blood products:
   351 mL
   Total out:
                                                                    720 mL
                                                                    570 mL
   Urine:
                                                                    720 mL
                                                                    390 mL
   NG:
   180 mL
   Stool:
   Drains:
   Balance:
                                                                  1,929 mL
                                                                    971 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (450 - 610) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 122
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.31/34/81.[**Numeric Identifier 218**]/18/-8
   Ve: 10.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: right chest excursion somewhat delayed; coarse on
   R>L
   Abdominal: Soft, protuberant
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.7 g/dL
   83 K/uL
   115 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   102 mg/dL
   110 mEq/L
   139 mEq/L
   28.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2101-9-1**]  02:53 PM
                             [**2101-9-1**]  08:28 PM
                             [**2101-9-2**]  03:09 AM
                             [**2101-9-2**]  03:20 AM
                             [**2101-9-2**]  04:01 PM
                             [**2101-9-2**]  09:37 PM
                             [**2101-9-3**]  12:57 AM
                             [**2101-9-3**]  02:41 AM
                             [**2101-9-3**]  02:56 AM
                             [**2101-9-3**]  08:45 AM
   WBC
   20.1
   14.9
   14.2
   Hct
   31.4
   32.5
   30.2
   31.7
   28.6
   Plt
   101
   82
   83
   Cr
   2.2
   2.2
   TCO2
   20
   19
   18
   19
   18
   Glucose
   87
   115
   Other labs: PT / PTT / INR:28.0/56.3/2.7, CK / CKMB /
   Troponin-T:22/5/0.33, ALT / AST:14/29, Alk Phos / T Bili:90/6.1,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:284 mg/dL, Lactic Acid:2.4 mmol/L,
   LDH:159 IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   66-year-old man with respiratory failure, cirrhosis, aspiration
   pneumonia, renal failure, and GIB.
   Respiratory Failure
   -          consider bronchoscopy given ?RML atelectasis
   -          discuss risks/benefits of paracentesis with hepatology
   (given bladder pressure of 23)
   -          leave ventilator settings at present settings until after
   transfusion and above
   -          continue abx for HAP
   GIB
   -          discuss with hepatology
   -          PPI
   -          Transfuse FFP and PRBCs given ongoing bleeding
   Acute renal failure
   -          Octreotide/midodrine
   -          Possible paracentesis today given bladder pressure 23
   Cirrhosis
   -          Continue present management
   -          Appreciate hepatology
s help
   -          Continue abx for prior SBP
   ICU Care
   Nutrition: hold TF for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Met with family twice today due to acuity of illness and need
   procedures.  Current issues reviewed and rationale for proceeding with
   paracentesis and bronchoscopy reviewed.  Imaging reviewed with family.
   All questions answered.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2101-9-3**] 11:22 PM ------

2101-09-04 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2101-9-3**] 11:15 AM
 BRONCHOSCOPY - At [**2101-9-3**] 04:10 PM
 PARACENTESIS - At [**2101-9-3**] 05:30 PM
   -off pressors. on both octreotide and midodrine now, and also on daily
   albumin for HRS
   -evidence of lobar collapse. bronch'ed-->no plugs
   -grossly bloody secretions, melanotic stools; gave one unit PRBC, 2
   units FFP
   -did OK on 0/5 trial, but in light of all fluids he will be getting,
   holding off on being more aggressive with weaning vent for now.
   -did diagnostic para. hoped to get 3L off with therapeutic para, but
   only able to get off 1L. Should attempt againt tomorrow. to help with
   breathing
   -ET tube high, pushed down 2cm
   -Hct 26.9, gave two units PRBC, two units FFP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-3**] 08:00 AM
   Ciprofloxacin - [**2101-9-3**] 09:13 PM
   Metronidazole - [**2101-9-4**] 04:01 AM
   Meropenem - [**2101-9-4**] 04:02 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2101-9-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-4**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 87 (80 - 93) bpm
   BP: 117/59(79) {99/49(65) - 128/69(94)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 74 kg
   Height: 70 Inch
    CVP: 19 (9 - 19)mmHg
   Bladder pressure: 23 (23 - 23) mmHg
                                Total In:
                                                                  3,595 mL
                                                                  1,617 mL
   PO:
                                TF:
                                                                    301 mL
   IVF:
                                                                  1,928 mL
                                                                    404 mL
   Blood products:
                                                                  1,106 mL
                                                                  1,213 mL
   Total out:
                                                                  2,110 mL
                                                                    690 mL
   Urine:
                                                                    870 mL
                                                                    290 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                  1,485 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (337 - 604) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 14 cmH2O
   SpO2: 93%
   ABG: 7.33/32/68/16/-7
   Ve: 12.6 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: icteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended, ascites
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   81 K/uL
   11.1 g/dL
   90 mg/dL
   2.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   109 mg/dL
   109 mEq/L
   141 mEq/L
   32.3 %
   15.9 K/uL
        [image002.jpg]
                             [**2101-9-3**]  02:56 AM
                             [**2101-9-3**]  08:45 AM
                             [**2101-9-3**]  02:42 PM
                             [**2101-9-3**]  06:50 PM
                             [**2101-9-3**]  09:39 PM
                             [**2101-9-3**]  09:55 PM
                             [**2101-9-4**]  12:02 AM
                             [**2101-9-4**]  03:16 AM
                             [**2101-9-4**]  03:29 AM
                             [**2101-9-4**]  04:36 AM
   WBC
   14.2
   15.9
   Hct
   28.6
   29.6
   30.1
   26.9
   32.3
   Plt
   83
   93
   81
   Cr
   2.2
   2.3
   TCO2
   18
   18
   18
   18
   18
   Glucose
   115
   90
   Other labs: PT / PTT / INR:24.1/48.7/2.3, CK / CKMB /
   Troponin-T:22/5/0.33, ALT / AST:15/40, Alk Phos / T Bili:129/6.9,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:207 mg/dL, Lactic Acid:2.4 mmol/L,
   LDH:143 IU/L, Ca++:10.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs:  WBC  1000    RBC  [**Numeric Identifier 10328**]
    Poly  85    Lymph  8    Mono  3    EOs
   Imaging: The ETT is in better position now 5.5 cm above the carina.
   Right
   IJ catheter remains in place. Dense right consolidation with some
   volume loss
   is again noted and some right pleural fluid that progressed. In
   addition at
   the left chest, there is some coarsening of markings and the
   possibility of
   worsening fluid status should be considered.
   Microbiology: [**2101-9-3**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   [**2101-8-31**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   INPATIENT
   [**2101-8-30**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {STAPH AUREUS COAG +, YEAST} INPATIENT
   [**2101-8-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2101-8-30**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2101-8-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2101-8-30**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2101-8-29**]  FLUID RECEIVED IN BLOOD CULTURE BOTTLES Fluid Culture in
   Bottles-FINAL INPATIENT
   [**2101-8-29**]  PERITONEAL FLUID GRAM STAIN-FINAL; FLUID CULTURE-FINAL;
   ANAEROBIC CULTURE-PRELIMINARY INPATIENT
   Assessment and Plan
 ASCITES
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   ##. Shock: hemorrhagic and septic components from GI bleed and
   aspiration pneumonia requiring single pressor
   - continue vancomycin, meropenem, flagyl, cipro for broad spectrum
   coverage of pneumonia and SBP flora; tap showed SBP,
   - monitor serial HCT Q8 (s/p 2 units PRBC, 2 units FFP)
 will use PRBC
   / FFP / Cryo transfusions as mentioned above if < 25
   - follow daily CXR and ABG
   - IV PPI drip
   - now on midodrine/octreotide and off pressors [**Last Name (un) 10316**]
   -new diagnosis of SBP despite meropenem coverage. Will consult with
   liver regarding possible fungal coverage.
   ##. Respiratory failure: result of aspiration pneumonia vs. chemical
   pneumonitis given rapid progression and presentation, along with
   collapse of lung. CXR yesterday demonstrating worsening pulmonary edema
   suggesting fluid overload, ?lobar collapse.
   -failed [**7-13**], will continue on [**7-16**] for now
   - continue broad spectrum antibiotics as documented above
   (vanc/[**Last Name (un) 614**]/cipro)
   - ?lobar collapse on CXR. bronch showed no plugs; able to get out
   copious suction yesterday though
   -intraabdominal pressure elevated, only able to get off 1L yesterday.
   Should retap today vs. diuresis, but will discuss with liver first
   - follow with serial ABG
   - limit IVF
s for worsening fluid congestion in setting of known AMI
   (other than blood products)
   ##. ST depressions: patient with known MI likely do to demand ischemia
   with elevated TN and wall motion abnormality demonstrated by ECHO
   - continue supportive measures to improve myocardial perfusion
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension  and poor forward flow.  Baseline noted to be 1.5 in past
   with near 2.0 on this admission.  Renal function appears intact with
   stable Cr.
    -will verify with liver OK for paracentesis today
   - continue to trend Cr with UOP around 30 cc/hr
    -continue octreotide/midodrine. Continue daily albumin
   ##. SBP: diagnosed by prior paracentesis
   -continue current abx. Consider cover fungal
   ##. FEN: No IVF, replete electrolytes
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals, consider placing PICC line early next week and
   reducing overall numbers of lines  if Hct stable
   ##. Code: Full, considering DNR
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: have been in contact with wife regarding
   progress
   Code status: Full code
   Disposition:ICU

2101-09-07 06:36:00 Physician Resident Progress Note
Chief Complaint: 66 yom w/ hx of hepatic sarcoidosis, cirrhosis,
   ascites, grade I varices, pulmonary sarcoidosis initially admitted for
   TIPS evaluation for GI bleed, diagnosed with SBP and then subsequently
   transferred to ICU after aspriation event with concenquent aspiration
   pneumonia, chemical pneumonities and problem of ongoing GI bleed
   requiring continued transfusions
   24 Hour Events:
   - family meeting with Dr. [**Last Name (STitle) 775**]:  daughter upset and having difficulty
   handling the situation re: goals of care
   - HCT fell from 36 to 31 at 1800, then remained stable
   - d/w Dr. [**Last Name (STitle) 1174**]: in the setting of multi-organ system failure, the
   possibility of liver transplant is off the table, goals of care should
   be focused on palliation
   - given 1 units of FFP for INR 2.8, then 2 additional units for INR of
   2.9
   -liver recs: consider anti-fungal coverage, consider re-culturing blood
   for fungus, consider 2-3 L paracentesis to aid weaning from vent;
   continue octreotide, midodrine, change to IV PPI [**Hospital1 **], future
   recommendations will depend on goals of care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2101-9-5**] 09:58 AM
   Ciprofloxacin - [**2101-9-6**] 09:30 PM
   Meropenem - [**2101-9-7**] 04:21 AM
   Metronidazole - [**2101-9-7**] 05:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2101-9-6**] 11:00 AM
   Metoprolol - [**2101-9-7**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 76 (76 - 125) bpm
   BP: 111/61(78) {105/59(76) - 126/81(97)} mmHg
   RR: 24 (21 - 46) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.1 kg (admission): 74 kg
   Height: 70 Inch
    CVP: 16 (16 - 21)mmHg
   Total In:
                                                                  3,771 mL
                                                                  1,479 mL
   PO:
   TF:
                                                                    637 mL
                                                                    268 mL
   IVF:
                                                                  1,955 mL
                                                                    520 mL
   Blood products:
                                                                    810 mL
                                                                    572 mL
   Total out:
                                                                  3,940 mL
                                                                    760 mL
   Urine:
                                                                  3,940 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 527 (456 - 544) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.41/32/95.[**Numeric Identifier 218**]/19/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: NAD
   Heart: irregular, normal rate,  no MRG
   Lungs: diffuse R. crackles with improved aeration c/w prior exams
   Abdomen: soft, increased distension, no fluid wave
   Extremities: WWP, diffuse U/[**Doctor First Name **] edema, DP 2+
   Labs / Radiology
   91 K/uL
   11.2 g/dL
   108 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.4 mEq/L
   123 mg/dL
   111 mEq/L
   144 mEq/L
   31.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2101-9-5**]  07:58 PM
                             [**2101-9-5**]  08:30 PM
                             [**2101-9-5**]  11:50 PM
                             [**2101-9-6**]  02:51 AM
                             [**2101-9-6**]  03:04 AM
                             [**2101-9-6**]  10:36 AM
                             [**2101-9-6**]  10:40 AM
                             [**2101-9-6**]  06:40 PM
                             [**2101-9-7**]  01:09 AM
                             [**2101-9-7**]  04:41 AM
   WBC
   17.4
   14.8
   Hct
   34.8
   34.2
   36.9
   31.9
   31.9
   Plt
   90
   91
   Cr
   2.4
   2.5
   2.5
   TropT
   0.30
   0.33
   0.33
   TCO2
   17
   19
   21
   Glucose
   121
   110
   108
   Other labs: PT / PTT / INR:29.6/46.7/2.9, CK / CKMB /
   Troponin-T:12/5/0.33, ALT / AST:10/47, Alk Phos / T Bili:147/8.5,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:192 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:4.1 g/dL, LDH:132 IU/L, Ca++:11.7 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.5 mg/dL
   New Microbiology
   - none
   Old Microbiology
   - c.diff [**9-4**]: negative
   - sputum [**9-4**]: 1+ budding yeast, > 25 PMN
s, yeast moderate growth
   - sputum [**8-31**]: MRSA
   - peritoneal [**9-3**]: 1 + PMN
s, no growth
 1000 B,  [**Numeric Identifier 10328**] R, 85% N
   New Imaging
   - [**9-7**]:
   Assessment and Plan
   Assessment and Plan
   ##. Resolved Shock: hemorrhagic and septic components with aspiration
   pneumonia and continued SBP in setting of worsening liver function and
   intermittent GIB
   - continue vancomycin ([**8-31**]), meropenumum ([**8-30**]), flagyl ([**8-30**]) and
   cipro ([**8-30**]) for broad spectrum coverage of continued pneumonia and SBP
   flora
   - add fluconazole for anti-fungal coverage in setting of continued SBP
   with negative cultures and sputum cultures positive for fungus
   - continue IV PPI drip and octreotide for GI bleed
   - monitor serial HCT, coags and fibrinogen q 8 hour, transfusing with
   PRBC
s, FFP and Cryo as necessary for goal HCT > 25 and goal INR < 3.0
   ##. Respiratory failure: result of aspiration pneumonia and chemical
   pneumonitis, now with continued airspace disease now effecting left
   lung, CXR demonstrating mild improvement in aeration of RLL.  Barriers
   to extubation include mental status, underlying pneumonia and elevated
   intra-abdominal pressures.
   - continue PSV with attempt to wean as tolerated
 now at PSV 8 PS / 5
   PEEP with good blood gas, attempt RSBI and if promising a SBT to gauge
   ability to come off ventilator
   - continue broad spectrum antibiotics as discussed above
   - attempt IR guided large volume paracentesis to facilitate respiratory
   status
   - patient with substantial urine output but difficult to achieve
   negative balance as requiring continued blood products - continue IV
   lasix drip titrate to goal negative 1L -  patient now 16.94 L pos. for
   LOS
   ##. ST depressions: patient with known MI likely do to demand ischemia
   with elevated TN and wall motion abnormality demonstrated by ECHO.
   Patient now with runs of narrow complex, irregular tachycardia to [**Street Address(2) 10365**] depressions in V4 and mild Tn increase from 3.0 to
   3.3, now stable at 3.3.  Patient rate controlled with Metoprolol 5 mg
   IV to prevent additional demand ischemia.
   - continue supportive measures to improve myocardial perfusion
   - continue to rate control as necessary with Metoprolol
   ##. Acute on Chronic Renal Failure: Pt noted to have a history HRS type
   II. Given renal function is mildly trending up, likely related to his
   hypotension  and poor forward flow.  Baseline noted to be 1.5 in past
   with near 2.0 on this admission.  Renal function appears but Cr now
   above baseline at 2.5.  Patient recently started on lasix drip with
   adequate urine output.
   - continue to trend Cr and UOP
   - continue octreotide / midodrine and daily albumin to improve
   hemodynamics
   ##. SBP: diagnosed by prior paracentesis
   - add fluconazole for anti-fungal coverage in setting of continued SBP
   despite broad spectrum antibiotics and sputum culture showing moderate
   fungal growth
   ##. FEN: attempting to limit total IVF in, replete electrolytes PRN,
   restart tube feeds
   ##. Prophylaxis: Pneumoboots
   ##. Access: peripherals, central line
   ##. Code: DNR
 family struggling with decision to make [**Last Name (LF) 580**], [**First Name3 (LF) **]
   continue therapeutic goals of care until decision is made
   ##. Communication: continue discussion with family concerning goals of
   care and endpoints, daughter traveling in from [**Name (NI) **] this PM will likely
   help in making definitive plans.  Will continue discussions with
   family.
   ##. Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2101-9-7**] 05:03 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2101-09-08 07:24:00 Physician Resident Progress Note
Chief Complaint: 66 yom w/ hx of hepatic sarcoidosis, cirrhosis,
   ascites, grade I varices, pulmonary sarcoidosis initially admitted for
   TIPS evaluation for GI bleed, diagnosed with SBP and then subsequently
   transferred to ICU after aspriation event with concenquent aspiration
   pneumonia, chemical pneumonities and problem of ongoing GI bleed
   requiring continued transfusions
   24 Hour Events:
   Patient extubated and started on morphine drip at 1640
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2101-9-7**] 09:30 AM
   Vancomycin - [**2101-9-7**] 10:40 AM
   Meropenem - [**2101-9-7**] 12:00 PM
   Metronidazole - [**2101-9-7**] 12:45 PM
   Infusions:
   Morphine Sulfate - 14 mg/hour
   Other ICU medications:
   Metoprolol - [**2101-9-7**] 12:00 PM
   Lorazepam (Ativan) - [**2101-9-7**] 06:44 PM
   Morphine Sulfate - [**2101-9-8**] 03:50 AM
   Furosemide (Lasix) - [**2101-9-8**] 04:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-9-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 88 (82 - 142) bpm
   BP: 51/30(38) {51/30(38) - 135/78(100)} mmHg
   RR: 14 (10 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 74 kg
   Height: 70 Inch
    CVP: 6 (6 - 10)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,992 mL
                                                                    139 mL
   PO:
   TF:
                                                                    556 mL
   IVF:
                                                                  1,624 mL
                                                                    139 mL
   Blood products:
                                                                    572 mL
   Total out:
                                                                  3,040 mL
                                                                    150 mL
   Urine:
                                                                  2,640 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    -48 mL
                                                                    -11 mL
   Labs / Radiology
   109 K/uL
   11.5 g/dL
   108 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.4 mEq/L
   123 mg/dL
   111 mEq/L
   144 mEq/L
   35.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2101-9-5**]  08:30 PM
                             [**2101-9-5**]  11:50 PM
                             [**2101-9-6**]  02:51 AM
                             [**2101-9-6**]  03:04 AM
                             [**2101-9-6**]  10:36 AM
                             [**2101-9-6**]  10:40 AM
                             [**2101-9-6**]  06:40 PM
                             [**2101-9-7**]  01:09 AM
                             [**2101-9-7**]  04:41 AM
                             [**2101-9-7**]  12:17 PM
   WBC
   17.4
   14.8
   16.4
   Hct
   34.8
   34.2
   36.9
   31.9
   31.9
   35.0
   Plt
   90
   91
   109
   Cr
   2.4
   2.5
   2.5
   TropT
   0.30
   0.33
   0.33
   TCO2
   19
   21
   Glucose
   121
   110
   108
   Other labs: PT / PTT / INR:25.7/43.3/2.5, CK / CKMB /
   Troponin-T:12/5/0.33, ALT / AST:10/47, Alk Phos / T Bili:147/8.5,
   Differential-Neuts:78.4 %, Lymph:14.1 %, Mono:6.5 %, Eos:0.5 %,
   D-dimer:[**Numeric Identifier 10186**] ng/mL, Fibrinogen:192 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:4.1 g/dL, LDH:132 IU/L, Ca++:11.7 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   :66 yom w/ hx of hepatic sarcoidosis, cirrhosis, ascites, grade I
   varices, pulmonary sarcoidosis initially admitted for TIPS evaluation
   for GI bleed, diagnosed with SBP and then subsequently transferred to
   ICU after aspriation event with concenquent aspiration pneumonia,
   chemical pneumonities.  Patient continued to have ongoing GIB requiring
   multiple tranfusions and continued SBP despite broad spectrum
   antibiotic therapy.
   ##. Aspiration Pneumonia
   ##  Hypoxic Respiratory Failure
   ##  SBP
   ##  GIB
   ## NSTEMI
   ## AFIB with RVR
   ## Acute on chronic RF
   After family meeting yesterday, treatment plan was changed to CMO.
   Patient was extubated and started on a morphine drip.  All additional
   medicines and lab draws were discontinued.  Family has assembled in
   anticipation of his passing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-8-30**] 04:19 AM
   Arterial Line - [**2101-8-30**] 06:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: